US08664401B2
Step B) 4-(4-bromophenoxy)cyclohexanone
1 N HCl(aq) (45 mL) was added to a solution of 8-(4-bromophenoxy)-1,4-dioxaspiro[4.5]decane (2.8 g, 8.94 mmol) in THF (100 mL). The reaction was heated to 50° C. After 1 hour the reaction was cooled to room temperature and neutralized by addition of solid sodium bicarbonate. The reaction was extracted with ether (1×), the resulting organic layer was washed with water, dried (Na2SO4), filtered and concentrated. Purification on a Biotage SNAP cartridge KP Sil 100 g (hexanes/ethyl acetate=9:1) afforded the title compound as a white solid (2.09 g, 87%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.02-2.13 (m, 2H) 2.21-2.41 (m, 4H) 2.61-2.74 (m, 2H) 4.62-4.71 (m, 1H) 6.81-6.89 (m, 2H) 7.37-7.44 (m, 2H)

reactant | HCl | 1 N, 45 mL | Cl | ClH
reactant | 8-(4-bromophenoxy)-1,4-dioxaspiro[4.5]decane | 8.94 mmol, 2.8 g | BrC1=CC=C(OC2CCC3(OCCO3)CC2)C=C1 | C14H17BrO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(4-bromophenoxy)cyclohexanone | 2.09 g, 87% | BrC1=CC=C(OC2CCC(CC2)=O)C=C1 | C12H13BrO2
